### PR TITLE
lemmas about measurable from PR prob_lang

### PR DESCRIPTION
**Pull request by affeldt-aist**
Co-authored-by: @AyumuSaito

##### Motivation for this change

This PR contains the lemmas of the PR #912 
about measurability of standard functions.

They are maybe uncontroversial and merging them first
will help reviewing PR #912 later if necessary (or before it turns into an independent repository).

##### Checklist

- [x] added corresponding entries in `CHANGELOG_UNRELEASED.md`

- [x] added corresponding documentation in the headers

Reference: [How to document](https://github.com/math-comp/math-comp/wiki/How-to-document)

##### Reminder to reviewers

- Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs)
- Put a milestone if possible
- Check labels

### CODE REVIEW

File: theories/lebesgue_measure.v [hunk 1]
```diff
@@ -1869,6 +1903,188 @@ Notation measurable_fun_max := measurable_maxr (only parsing).
...
+  by apply: bigcup_measurable => k Ak; exact: measurable_itv_bounded.
+apply/seteqP; split => [x Ax|x [k Ak]].
+  by exists x => //=; rewrite in_itv/= lexx/= ltEnat /= ltnS.
+by rewrite /= in_itv/= leEnat ltEnat /= ltnS -eqn_leq => /eqP <-.
+Qed.
+
+End ngencinfty.
+End NGenCInfty.
+
+Section measurable_fun_nat.
```
Comment (zstone1) [inline theories/lebesgue_measure.v:1948]: I feel like I'm missing an "obvious" generalization for this section. Also, I have a feeling this works for any measure on `nat`. But I have spent all night thinking about it and made no progress.

File: theories/lebesgue_measure.v [hunk 2]
```diff
@@ -1869,6 +1903,188 @@ Notation measurable_fun_max := measurable_maxr (only parsing).
...
+    by move/propext.
+  split=> [gfn|[k [t _ <- []]] /=].
+    by exists (f n) => //; split => /=.
+  by move=> /leq_trans; apply.
+- by rewrite preimage_set0 setI0.
+- by rewrite preimage_setT setIT.
+Qed.
+
+Lemma measurable_fun_leq D f g : measurable_fun D f -> measurable_fun D g ->
+  measurable_fun D (fun x => f x <= g x)%N.
```
Comment (zstone1) [inline theories/lebesgue_measure.v:2055]: More characteristic function trickery, or is this actually measurable into `Bool`?

**Review by zstone1 — APPROVED** [review]
All stuff that makes sense, and unblocks your probability stuff. So engineering-wise it's fine. Math-wise something feels off about measures on `nat`, but I'm not sure how to articulate it. So I don't have any concrete improvements to request (aside from the nits I highlighted). So happy to merge it and see what we find later.

File: theories/lebesgue_measure.v [hunk 3]
```diff
@@ -1805,6 +1818,27 @@ apply: (@measurable_fun_limn_sup _ h) => // t Dt.
 - by apply/bounded_fun_has_lbound/cvg_seq_bounded/cvg_ex; eexists; exact: f_f.
 Qed.
 
+Lemma measurable_fun_dirac (U : set R) : measurable U ->
+  measurable_fun [set: _] (fun x : R => \d_x U : \bar R).
```
[the remark this answers is not in the document]
Comment (affeldt-aist) [reply theories/lebesgue_measure.v]: I have introduced the `\1` variant and generalized the dirac lemma a bit.
Since the splitting is recorded as issue https://github.com/math-comp/analysis/issues/1315,
I mark this one as resolved.

File: theories/lebesgue_measure.v [hunk 4]
```diff
@@ -1738,6 +1742,15 @@ under eq_fun do rewrite -subr_ge0.
 by rewrite preimage_true -preimage_itv_c_infty; exact: measurable_funB.
 Qed.
 
+Lemma measurable_fun_eqr D f g : measurable_fun D f -> measurable_fun D g ->
+  measurable_fun D (fun x => f x == g x).
```
[the remark this answers is not in the document]
Comment (affeldt-aist) [reply theories/lebesgue_measure.v:1746]: I am not yet sure that this one ought to be replaced by a version with the indicator function but we indeed might want this variant. I'd like to record this one as an enhancement issue if you don't mind.

File: theories/lebesgue_measure.v (hunk 1 above)
Comment (affeldt-aist) [reply theories/lebesgue_measure.v:1947]: I had the same feeling but couldn't figure out any generalization as well.
